US09056874B2
(±)-2-(1-(5,7-Dimethyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile as described in Example 64-B and 64-C. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.22 (br. s., 1H) 10.86 (br. s., 1H) 8.13 (m) 7.69-7.84 (m) 7.36-7.54 (m) 7.05 (t, J=2.78 Hz, 1H) 6.76 (s, 1H) 5.83-5.96 (m, 1H) 4.72-4.90 (m, 1H) 2.39 (s, 3H) 2.37 (s, 3H) 1.76 (d, J=7.07 Hz, 3H). HRMS calcd. for C20H18N4 (M+H)+ 315.1610. found 315.1610.

reactant | (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C33H38N4O3SSi
reactant | (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C33H38N4O3SSi
product | (±)-2-(1-(5,7-Dimethyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)C(C)C1=NC2=C(N1)C=CC(=C2)C#N | C20H18N4
